US04876261
850 mg of 4-(3,4-dimethoxyphenyl)-7-methyl-1,2,3,4-tetrahydroisoquinoline was dissolved in 17 ml of 48% hydrobromic acid, and the mixture was heated under reflux under an argon gas stream for 3 hours. The reaction solution was cooled, and the crystals obtained were collected by filtration, giving 620 mg of 4-(3,4-dihydroxyphenyl)-7-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide.

reactant | 4-(3,4-dimethoxyphenyl)-7-methyl-1,2,3,4-tetrahydroisoquinoline | 850 mg | COC=1C=C(C=CC1OC)C1CNCC2=CC(=CC=C12)C | C18H21NO2
reactant | hydrobromic acid | 17 ml | Br | BrH
product | 4-(3,4-dihydroxyphenyl)-7-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | 620 mg | Br.OC=1C=C(C=CC1O)C1CNCC2=CC(=CC=C12)C | InChI=1S/C16H17NO2.BrH/c1-10-2-4-13-12(6-10)8-17-9-14(13)11-3-5-15(18)16(19)7-11;/h2-7,14,17-19H,8-9H2,1H3;1H
